; `xyce` Sim Input for `__main__.Tb`
; Generated by `vlsirtools.XyceNetlister`
; 
; Anonymous `circuit.Package`
; Generated by Arya by hand

; Use sky130mux, alt_sky130mux.

.include package.sp


* sky130_fd_pr__nfet_01v8 d g s b
* sky130_fd_pr__pfet_01v8 d g s b
* sky130_fd_pr__pfet_01v8_hvt d g s b

; put some dfxtp_1 cells as the feeder inputs to the sky130_mux
.subckt lut
+ S0 S1 S2 S3 Z CONFIG_IN CONFIG_OUT CLK VPWR VGND

X0  CONFIG_IN clk_0 clk_i_0          1 VPWR VGND VPWR VGND lut_dfxtp_0_0_template 
X1          1 clk_0 clk_i_0          2 VPWR VGND VPWR VGND lut_dfxtp_0_0_template 
X2          2 clk_0 clk_i_0          3 VPWR VGND VPWR VGND lut_dfxtp_0_0_template 
X3          3 clk_0 clk_i_0          4 VPWR VGND VPWR VGND lut_dfxtp_0_0_template 
X4          4 clk_0 clk_i_0          5 VPWR VGND VPWR VGND lut_dfxtp_0_0_template 
X5          5 clk_0 clk_i_0          6 VPWR VGND VPWR VGND lut_dfxtp_0_0_template 
X6          6 clk_0 clk_i_0          7 VPWR VGND VPWR VGND lut_dfxtp_0_0_template 
X7          7 clk_0 clk_i_0          8 VPWR VGND VPWR VGND lut_dfxtp_0_0_template 
X8          8 clk_0 clk_i_0          9 VPWR VGND VPWR VGND lut_dfxtp_0_0_template 
X9          9 clk_0 clk_i_0         10 VPWR VGND VPWR VGND lut_dfxtp_0_0_template 
X10        10 clk_0 clk_i_0         11 VPWR VGND VPWR VGND lut_dfxtp_0_0_template 
X11        11 clk_0 clk_i_0         12 VPWR VGND VPWR VGND lut_dfxtp_0_0_template 
X12        12 clk_0 clk_i_0         13 VPWR VGND VPWR VGND lut_dfxtp_0_0_template 
X13        13 clk_0 clk_i_0         14 VPWR VGND VPWR VGND lut_dfxtp_0_0_template 
X14        14 clk_0 clk_i_0         15 VPWR VGND VPWR VGND lut_dfxtp_0_0_template 
X15        15 clk_0 clk_i_0 CONFIG_OUT VPWR VGND VPWR VGND lut_dfxtp_0_0_template 

*X0  clk  CONFIG_IN VGND VGND VPWR VPWR          1 sky130_fd_sc_hd__dfxtp_1 
*X1  clk          1 VGND VGND VPWR VPWR          2 sky130_fd_sc_hd__dfxtp_1 
*X2  clk          2 VGND VGND VPWR VPWR          3 sky130_fd_sc_hd__dfxtp_1 
*X3  clk          3 VGND VGND VPWR VPWR          4 sky130_fd_sc_hd__dfxtp_1 
*X4  clk          4 VGND VGND VPWR VPWR          5 sky130_fd_sc_hd__dfxtp_1 
*X5  clk          5 VGND VGND VPWR VPWR          6 sky130_fd_sc_hd__dfxtp_1 
*X6  clk          6 VGND VGND VPWR VPWR          7 sky130_fd_sc_hd__dfxtp_1 
*X7  clk          7 VGND VGND VPWR VPWR          8 sky130_fd_sc_hd__dfxtp_1 
*X8  clk          8 VGND VGND VPWR VPWR          9 sky130_fd_sc_hd__dfxtp_1 
*X9  clk          9 VGND VGND VPWR VPWR         10 sky130_fd_sc_hd__dfxtp_1 
*X10 clk         10 VGND VGND VPWR VPWR         11 sky130_fd_sc_hd__dfxtp_1 
*X11 clk         11 VGND VGND VPWR VPWR         12 sky130_fd_sc_hd__dfxtp_1 
*X12 clk         12 VGND VGND VPWR VPWR         13 sky130_fd_sc_hd__dfxtp_1 
*X13 clk         13 VGND VGND VPWR VPWR         14 sky130_fd_sc_hd__dfxtp_1 
*X14 clk         14 VGND VGND VPWR VPWR         15 sky130_fd_sc_hd__dfxtp_1 
*X15 clk         15 VGND VGND VPWR VPWR CONFIG_OUT sky130_fd_sc_hd__dfxtp_1 

xmux_0
*+ n_1 n_0 n_3 n_2 n_5 n_4 2 1 3 4 14 13 15 CONFIG_OUT n_7 VPWR VGND 
+ n_1 n_0 n_3 n_2 n_5 n_4 1 2 3 4 5 6 7 8 n_7 VPWR VGND 
+ sky130_mux
+ ; No parameters
*
xmux_1
*+ n_1 n_0 n_3 n_2 n_5 n_4 11 12 10 9 7 8 6 5 n_8 VPWR VGND 
+ n_1 n_0 n_3 n_2 n_5 n_4 9 10 11 12 13 14 15 CONFIG_OUT n_8 VPWR VGND 
+ alt_sky130_mux
+ ; No parameters
*

xbuf_0
+ n_1 n_0 S0 VPWR VGND VPWR VGND
+ buf_0_template
+ ; No parameters

xbuf_1
+ n_3 n_2 S1 VPWR VGND VPWR VGND
+ buf_1_template
+ ; No parameters

xbuf_2
+ n_5 n_4 S2 VPWR VGND VPWR VGND
+ buf_2_template
+ ; No parameters

xbuf_3
+ n_6 n_9 S3 VPWR VGND VPWR VGND
+ buf_3_template
+ ; No parameters

* X P A
* P should be A inverted
xclk_buf_0
+ clk_0 clk_i_0 CLK VPWR VGND VPWR VGND
+ clk_buf_0_template
+ ; No parameters

xclk_buf_1
+ clk_1 clk_i_1 CLK VPWR VGND VPWR VGND
+ clk_buf_1_template
+ ; No parameters

xhd_mux2_1_0
+ n_6 n_7 n_8 Z VPWR VGND VPWR VGND
+ hd_mux2_1_0_template
+ ; No parameters

*xoutputmux
*+ n_7 n_8 n_6 VGND VGND VPWR VPWR Z
*+ sky130_fd_sc_hd__mux2_1

.ends
